US07723368B2
Step 2) 1-Bromo-3-[3-(2-methoxy-ethyl)-cyclobutyl]-benzene
2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol (0.500 gm, 1.96 mmol) was dissolved in diethylether (7 mL) and combined with tetrabutylammonium iodide (75 mg, 0.203 mmol), an aqueous solution of sodium hydroxide (5 gm, 50% wt/wt, 62.5 mmol) and dimethylsulfate (0.50 ml, 5.27 mmol). The mixture was stirred overnight at ambient temperature then diluted with diethyl ether and decanted. The supernatant was concentrated onto silica and purified by column chromatography (25% diethylether in hexanes) to afford 389 mg of an oil (74%). This material was used in next step without further characterization.

reactant | 2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol | 1.96 mmol, 0.500 gm | BrC=1C=C(C=CC1)C1CC(C1)CCO | C12H15BrO
reactant | sodium hydroxide | 62.5 mmol, 5 gm | [OH-].[Na+]
reactant | dimethylsulfate | 5.27 mmol, 0.50 ml | COS(=O)(=O)OC | C2H6O4S
solvent | diethylether | 7 mL | C(C)OCC | C4H10O
catalyst | tetrabutylammonium iodide | 0.203 mmol, 75 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-Bromo-3-[3-(2-methoxy-ethyl)-cyclobutyl]-benzene | 389 mg, 74% | BrC1=CC(=CC=C1)C1CC(C1)CCOC | C13H17BrO
